US06025394
5-Fluoro-2-methyl-1H-3-indenyl-(2-hydroxy) ethane (15 g, 0.072 mol), p-methylsulfonylbenzaldehyde (14.0 g, 0.091 mol) and sodium methoxide (13.0 g, 0.24 mol) are heated in methanol (200 ml) at 60° C. under nitrogen with stirring for 6 hours. The reaction mixture is poured onto ice-water (750 g), and is acidified with 2.5N hydrochloric acid. The collected solid is triturated with a little ether to produce (Z)-5-fluoro-2-methyl-1-(p-methylsulfonylbenzylidene)-1H-3-indenyl-(2-hydroxy) ethane. Recrystallization of the crude reaction product results in the separation of the mixture of geometrical isomers (Z/E) and gives the title compound (R1 =5-fluror, R2 =CH3, R3 =H, R4 =CH2OH, n=1, R5 =CH3SO2).

reactant | 5-Fluoro-2-methyl-1H-3-indenyl-(2-hydroxy) ethane | 0.072 mol, 15 g | FC=1C=C2C(=C(CC2=CC1)C)CCO | C12H13FO
reactant | p-methylsulfonylbenzaldehyde | 0.091 mol, 14.0 g | CS(=O)(=O)C1=CC=C(C=O)C=C1 | C8H8O3S
reactant | sodium methoxide | 0.24 mol, 13.0 g | C[O-].[Na+]
reactant | hydrochloric acid | 2.5N | Cl | ClH
solvent | methanol | 200 ml | CO | CH4O
product | (Z)-5-fluoro-2-methyl-1-(p-methylsulfonylbenzylidene)-1H-3-indenyl-(2-hydroxy) ethane | FC=1C=C2C(=C(/C(/C2=CC1)=C/C1=CC=C(C=C1)S(=O)(=O)C)C)CCO | C20H19FO3S
